US08461134B2
Methyl 2-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate
To a stirred solution of 6-amino-3H-benzo[c][1,2]oxaborol-1-ol (3.5 g, 0.024 mol, 0.9 eq) and NMM (7.9 g, 0.079 mol, 3 eq) in acetonitrile (50 mL) was added a solution of methyl 2-(2-(chlorosulfonyl)-5-(2,2,2-trifluoroacetamido) phenyl)acetate (9.4 g, 0.026 mol) in anhydrous acetonitrile (50 mL) at 0-5° C. Then the mixture was stirred at r.t overnight, the mixture was concentrated and dissolved in DCM and then washed with brine, dried and concentrated, purified by column chromatography (PE:EA 10:1˜1.5:1) to give the title compound (7.4 g, yield 60%). 1H NMR DMSO-d6 400 MHz δ11.54 (s, 1H), 10.36 (s, 1H), 9.21 (s, 1H), 7.87-7.10 (m, 6H), 4.87 (s, 2H), 4.08 (s, 2H), 3.58 (s, 3H). ESI-MS m/z 495 (M+Na+, positive); HPLC purity: 98.23% (220 nm), 99.55% (254 nm).

reactant | 6-amino-3H-benzo[c][1,2]oxaborol-1-ol | 0.024 mol, 3.5 g, 0.9 eq | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | NMM | 0.079 mol, 7.9 g, 3 eq | CN1CCOCC1 | C5H11NO
reactant | methyl 2-(2-(chlorosulfonyl)-5-(2,2,2-trifluoroacetamido) phenyl)acetate | 0.026 mol, 9.4 g | ClS(=O)(=O)C1=C(C=C(C=C1)NC(C(F)(F)F)=O)CC(=O)OC | C11H9ClF3NO5S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Methyl 2-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate | 7.4 g, yield 60% | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)NC(C(F)(F)F)=O)CC(=O)OC | C18H16BF3N2O7S
